US07981918B2
(R)-3-(4′-Fluoro-3,5-dimethyl-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one
Purge a solution of Trifluoro-methanesulfonic acid 3,5-dimethyl-4-[(R)-2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-3-ylmethyl]-phenyl ester (Preparation 66) (1.05 g, 2.2 mmol), 4-Fluorophenylboronic acid (0.38 g, 2.7 mmol), and sodium carbonate (0.36 g, 3.4 mmol) in THF (15 mL) and water (5 mL) with nitrogen. Treat the reaction with Tetrakis(triphenylphosphine)palladium(0) (0.13 g, 0.1 mmol) and again purge with nitrogen. Heat the reaction to 80° C. and stir for 2 hr. Treat the reaction with 1N LiOH (5 mL) and cool to room temperature. Quench the reaction with 1N HCl. Extract the aqueous with EtOAc. Wash the organic with brine, dry over MgSO4, and filter. Purify the crude by silica gel column chromatography using CH2Cl2 and 2M Ammonia in MeOH to elute the pure product. MS (m/e): 418 (M+1).

reactant | Trifluoro-methanesulfonic acid 3,5-dimethyl-4-[(R)-2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-3-ylmethyl]-phenyl ester | 2.2 mmol, 1.05 g | CC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1CC2=CN(N=C2CC1)S(=O)(=O)C(F)(F)F)=O)C)OS(=O)(=O)C(F)(F)F | C22H23F6N3O6S2
reactant | 4-Fluorophenylboronic acid | 2.7 mmol, 0.38 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 3.4 mmol, 0.36 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | LiOH | 1N, 5 mL | [Li+].[OH-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-3-(4′-Fluoro-3,5-dimethyl-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | FC1=CC=C(C=C1)C1=CC(=C(C(=C1)C)C[C@H]1C(N(CC1)C1CC2=CNN=C2CC1)=O)C | C26H28FN3O
